US05208228
17-Ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-isopropoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (69 mg in 3 ml 33% methylene chloride in cyclohexane), isopropyl trichloroacetimidate (22 μl neat) was added and the reagents allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (2 μl neat) was added slowly via syringe and the mixture stirred at room temperature. After 24 hours the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×8 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by preparative TLC on silica gel (ethyl acetate: hexane (1:1)+1% methanol) gave the title compound (12 mg).

reactant | 17-ethyl-1-hydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 3 ml, 69 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)=O | C42H67NO11
reactant | isopropyl trichloroacetimidate | 22 μl | ClC(C(OC(C)C)=N)(Cl)Cl | C5H8Cl3NO
reactant | Trifluoromethanesulfonic acid | 2 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-isopropoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 12 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC(C)C)C)C)=O | C45H73NO11
